US05817689
Preparation of 2-[3-(7-ethoxyindol-3-yl)-2-propylamino]-1-(3-chlorophenyl)ethanol:
(3-Chlorophenyl)oxirane (0.92 g) and 3-(2-aminopropyl)-7-ethoxyindole (2.18 g) are treated in the same manner as in Example 1, Process (a) to give the desired compound (1.16 g) as an oily product.

reactant | (3-Chlorophenyl)oxirane | 0.92 g | ClC=1C=C(C=CC1)C1OC1 | C8H7ClO
reactant | 3-(2-aminopropyl)-7-ethoxyindole | 2.18 g | NC(CC1=CNC2=C(C=CC=C12)OCC)C | C13H18N2O
product | 2-[3-(7-ethoxyindol-3-yl)-2-propylamino]-1-(3-chlorophenyl)ethanol | 1.16 g | C(C)OC=1C=CC=C2C(=CNC12)CC(C)NCC(O)C1=CC(=CC=C1)Cl | C21H25ClN2O2
